Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]1[C:3][O:4][C:5]=[C:6]1[H:7],0.538970044459
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.44927826271
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.73919825762
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[H:6],1.83123978209
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.35180309238
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.8796239595
[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.83411102636
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1],5.7854477197000005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.04610867361
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12],-2.64717656651
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])=[O:11]>>[H:1][C:2]([H:3])[C@:4]12[O:5][C@:6]1([C:7]([H:8])([H:9])[H:10])[O:11]2,0.279441929559
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],1.83661469548
[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[C:1](#[C:2][C:6]([H:7])[H:8])[H:4].[C:3]#[C:5],5.18969109208
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]=[C:13]([H:14])[H:15],1.7274901288599998
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.3082896066100003
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.38524829233
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4],2.52484987074
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],3.88818973522
[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-1.96235393757
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.07972882863
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([O:8])([H:9])[H:10].[H:6],3.95149059422
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-4.08226074863
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3],3.78599515608
[H:1][C:2]([H:3])([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[O:10])[C:12]([O:11])([H:13])[H:14],1.38618001
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8]>>[C:3]([H:4])#[C:5][O:6][C:7][H:8].[O:1]=[C:2],-0.00376791753069
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.83080996832
[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-0.31953946503
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.4048655677000002
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4],3.76113395847
